US07378417B2
7-Difluoromethyl-5-(4-trifluoromethoxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoyl-phenyl)-amide
The title compound was prepared from 7-difluoromethyl-5-(4-trifluoromethoxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.20) and 3-sulfamoyl-phenylamine [commercially available] according to general procedure II. Yellow solid. MS (ISP) 526.2 [(M−H)−]; mp 231° C.

reactant | 7-difluoromethyl-5-(4-trifluoromethoxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)OC(F)(F)F)F | C15H8F5N3O3
reactant | 3-sulfamoyl-phenylamine | S(N)(=O)(=O)C=1C=C(C=CC1)N | C6H8N2O2S
product | 7-Difluoromethyl-5-(4-trifluoromethoxy-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoyl-phenyl)-amide | S(N)(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)OC(F)(F)F | C21H14F5N5O4S
